US07977358B2
In analogy to the procedure described in example 14C] but with 2.8 eq of K3PO4, [5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone and 4-chlorophenylboronic acid gave [5-(4′-chloro-biphenyl-3-yl)-1,4-dimethyl-1H-pyrazol-3-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone in 39% yield as light brown foam. MS: 451.3 (MH+, 1 Cl).

reactant | K3PO4 | 2.8 eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | [5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone | BrC=1C=C(C=CC1)C1=C(C(=NN1C)C(=O)N1CC(CC1)N(CC)CC)C | C20H27BrN4O
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | [5-(4′-chloro-biphenyl-3-yl)-1,4-dimethyl-1H-pyrazol-3-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone | 39% yield | ClC1=CC=C(C=C1)C1=CC(=CC=C1)C1=C(C(=NN1C)C(=O)N1CC(CC1)N(CC)CC)C | C26H31ClN4O
